US08183231B2
To a solution of N-Cbz-L-valine (1.0 g, 3.98 mmol) dissolved in CH2Cl2 (80 mL) under nitrogen was added hydroxybenzotriazole (0.538 g, 3.98 mmol) and PS-Carbodiimide (2.25 g, 5.17 mmol). After stirring for 10 min, triethylamine (0.665 mL, 4.78 mmol) and ((R)-3-amino-2-hydroxy-propyl)-cyclohexylmethyl-phosphinic acid benzyl ester hydrochloride (1.44 g, 3.98 mmol) were added. The reaction was stirred for 2 h, then filtered and concentrated in vacuo. The residue was purified by flash chromatography with methanol/dichloromethane on a 35 g RediSep disposable column to give [(R)-3-((S)-2-benzyloxycarbonylamino-3-methyl-butyrylamino)-2-hydroxy-propyl]-cyclohexylmethyl-phosphinic acid benzyl ester (0.60 g, 1.07 mmol) as a white foam. NMR and MS spectra were substantially similar to the product obtained via Method A set forth above.

reactant | N-Cbz-L-valine | 3.98 mmol, 1.0 g | C(=O)(OCC1=CC=CC=C1)N[C@@H](C(C)C)C(=O)O | C13H17NO4
reactant | hydroxybenzotriazole | 3.98 mmol, 0.538 g | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | Carbodiimide | 5.17 mmol, 2.25 g | N=C=N | CH2N2
reactant | triethylamine | 4.78 mmol, 0.665 mL | C(C)N(CC)CC | C6H15N
reactant | ((R)-3-amino-2-hydroxy-propyl)-cyclohexylmethyl-phosphinic acid benzyl ester hydrochloride | 3.98 mmol, 1.44 g | Cl.C(C1=CC=CC=C1)OP(=O)(CC1CCCCC1)C[C@@H](CN)O
solvent | CH2Cl2 | 80 mL | C(Cl)Cl | CH2Cl2
product | [(R)-3-((S)-2-benzyloxycarbonylamino-3-methyl-butyrylamino)-2-hydroxy-propyl]-cyclohexylmethyl-phosphinic acid benzyl ester | 1.07 mmol, 0.60 g | C(C1=CC=CC=C1)OP(=O)(CC1CCCCC1)C[C@@H](CNC([C@H](C(C)C)NC(=O)OCC1=CC=CC=C1)=O)O | C30H43N2O6P
